US07199147B2
Cyclohexanol (0.315 ml, 2.98 mmol), triphenylphosphine (442 mg, 1.64 mmol) and dibenzyl azodicarboxylate (534 mg, 1.17 mmol) were added at 0° C. to a solution of the 1H-indazol-5-ol (200 mg, 1.49 mmol) obtained in Reference Example 4 in tetrahydrofuran (16 ml). After 30 minutes, the mixture thus obtained was warmed up to room temperature. After stirring overnight, the reaction solution was concentrated under reduced pressure and a-1M aqueous sodium hydroxide solution (20 ml) was added to the resulting residue, followed by extraction with ethyl acetate (20 ml×2). The organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol, hexane/ethyl acetate) to obtain 5-(cyclohexyloxy)-1H-indazole (140 mg, 43%).

reactant | Cyclohexanol | 2.98 mmol, 0.315 ml | C1(CCCCC1)O | C6H12O
reactant | triphenylphosphine | 1.64 mmol, 442 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibenzyl azodicarboxylate | 1.17 mmol, 534 mg | N(=NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H14N2O4
reactant | 1H-indazol-5-ol | 1.49 mmol, 200 mg | N1N=CC2=CC(=CC=C12)O | C7H6N2O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 5-(cyclohexyloxy)-1H-indazole | 140 mg, 43% | C1(CCCCC1)OC=1C=C2C=NNC2=CC1 | C13H16N2O
